US06962914B2
Sodium ethoxide (0.7 mL (2.09 mmol), 21% in ethanol) and N-cyclopentyl guanidine hydrochloride (0.47 g, 2.88 mmol) were added sequentially to ethanol (30 mL). The resulting solution was stirred at room temperature for 30 minutes. 1-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (0.5 g, 1.61 mmol) was added, and the suspension was stirred at room temperature for 2 days. The reaction was quenched by the addition of water. The aqueous phase was extracted by ethyl acetate. The organics were combined, washed with brine and dried over magnesium sulfate. Filtration and concentration gave a solid. This solid was recrystallized from methanol to give 4-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (0.45 g, 66%) as a pale yellow solid. 1H NMR (CDCl3): δ 8.59 (broad s, 1H), 8.42 (d, 1H), 8.05 (d, 1H), 7.59 (d, 2H), 7.03 (d, 2H), 6.91 (dd, 1H), 6.39 (d, 1H), 5.34 (broad s, 1H), 4.42 (m, 1H), 3.92 (s, 3H), 2.17 (m, 2H), 1.86-1.60 (m, 6H); MS m/z 420 (M+1).

reactant | Sodium ethoxide | 2.09 mmol, 0.7 mL | [O-]CC.[Na+]
reactant | N-cyclopentyl guanidine hydrochloride | 2.88 mmol, 0.47 g | Cl.C1(CCCC1)NC(=N)N
reactant | 1-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 1.61 mmol, 0.5 g | ClC1=CC=2N(C=C1)N=C(C2C(C#C)=O)C2=CC=C(C=C2)OC | C17H11ClN2O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 0.45 g, 66% | ClC1=CC=2N(C=C1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C23H22ClN5O
